US07354932B2
Compound 171: Preparation of 4-[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-piperidine-1-carboxylic Acid Amide (Hydrobromide Salt)
A solution of (1H-benzimidazol-2-ylmethyl)-piperidin-4-yl-(5,6,7,8-tetrahydroquinolin-8-yl)-amine (0.16 g, 0.43 mmol) in isopropanol (3 mL) was treated with trimethylsilylisocyanate (81 μL, 0.60 mmol) at room temperature. The reaction was stirred 20 hours and concentrated under reduced pressure. This afforded, after column chromatography with silica gel (5:0.5:94.5 MeOH:NH4OH:CH2Cl2), 4-[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-piperidine-1-carboxylic acid amide (112 mg, 66%). 1H NMR (CDCl3) δ 1.42 (m, 1H), 1.60-1.95 (m, 5H), 2.02 (br, 1H), 2.24 (br, 1H), 2.60-2.80 (m, 4H), 2.89 (m, 1H), 3.70 (br, 1H), 4.03 (br, 1H), 4.15 (m, 3H), 4.39 (br, 2H, NH2), 7.18 (m, 3H), 7.45 (d, 1H, J=7.5 Hz), 7.66 (br, 2H), 8.59 (d, 1H, J=4.0 Hz).

reactant | (1H-benzimidazol-2-ylmethyl)-piperidin-4-yl-(5,6,7,8-tetrahydroquinolin-8-yl)-amine | 0.43 mmol, 0.16 g | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)C2CCNCC2 | C22H27N5
reactant | trimethylsilylisocyanate | 0.60 mmol, 81 μL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | 4-[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-piperidine-1-carboxylic Acid Amide | N1C(=NC2=C1C=CC=C2)CN(C2CCN(CC2)C(=O)N)C2CCCC=1C=CC=NC21 | C23H28N6O
